US08536169B2
6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole
A mixture of 6-bromo-4-nitro-1H-indazole (10.0 g, 0.041 mol), 3,4-dihydropyran (8.52 ml, 0.09 mol) and pyridinium para-toluene sulfonate (125 mg, 0.50 mol) in dichloromethane (150 ml) was heated at reflux for 4.5 hours. The reaction was allowed to cool to room temperature and was poured onto saturated aqueous sodium bicarbonate (200 ml). The layers were separated and the aqueous layer extracted with dichloromethane (2×100 ml). The combined organic layers were washed with 5% aqueous citric acid (w/v, 100 ml) and brine (100 ml) then dried over magnesium sulphate. Solvent was removed in vacuo to give the title compound which was used in subsequent reactions without further purification (12.89 g).

reactant | 6-bromo-4-nitro-1H-indazole | 0.041 mol, 10.0 g | BrC1=CC(=C2C=NNC2=C1)[N+](=O)[O-] | C7H4BrN3O2
reactant | 3,4-dihydropyran | 0.09 mol, 8.52 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium para-toluene sulfonate | 0.50 mol, 125 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)[N+](=O)[O-] | C12H12BrN3O3
